US07053107B2
2-[3-Methylcarbamoyl-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid methyl ester
To a solution of 6-(2-Methoxycarbonyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid (0.50 g, 1.27 mmol) in DMF was added triethylamine (0.42 mL, 3.04 mmol), methylamine (1.9 mL, 3.81 mmol), and HATU (0.578 g, 1.52 mmol). The reaction was stirred for 3 hours and then concentrated by rotary evaporation. The crude oil was chromatographed (50 g silica gel, 25–50% EtOAc/hexanes) to yield the desired product (214 mg, 42%).

reactant | 6-(2-Methoxycarbonyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid | 1.27 mmol, 0.50 g | COC(=O)C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C(=O)O | C21H21N3O5
reactant | triethylamine | 3.04 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine | 3.81 mmol, 1.9 mL | CN | CH5N
reactant | HATU | 1.52 mmol, 0.578 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[3-Methylcarbamoyl-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid methyl ester | 214 mg, 42% | COC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C(NC)=O)=O | C22H24N4O4
